US05998436
Synthesis of ethyl 1-[6-(t-butylamino)-3,5-difluoropyridin-2-yl]-8-chloro-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylate
To 15 ml of chloroform solution of ethyl 3-ethoxy-2-(3-chloro-2,4,5-trifluorobenzoyl)acrylate prepared from 4.20 g of ethyl 3-chloro-2,4,5-trifluorobenzoylacetate by normal process was added 3.30 g of 2-amino-6-(t-butylamino)-3,5-difluoropyridine. The solution was concentrated under reduced pressure to obtain orange-colored solid residue. To this residue were added 4.0 g of anhydrous potassium carbonate and 8 ml of N,N-dimethylformamide, and the mixture was stirred at 90° C. for 10 minutes and allowed to cool. The solution was separated by adding 50 ml of chloroform and 500 ml of distilled water, and the chloroform layer was washed twice with 500 ml of distilled water, dried over anhydrous magnesium sulfate, concentrated under reduced pressure, and allowed to stand. The precipitate was collected by filtration, washed with ethanol and diisopropylether successively to obtain 4.67 g of the title compound as a colorless powder.

reactant | ethyl 3-ethoxy-2-(3-chloro-2,4,5-trifluorobenzoyl)acrylate | C(C)OC=C(C(=O)OCC)C(C1=C(C(=C(C(=C1)F)F)Cl)F)=O | C14H12ClF3O4
reactant | ethyl 3-chloro-2,4,5-trifluorobenzoylacetate | 4.20 g | ClC=1C(=C(C(=O)CC(=O)OCC)C=C(C1F)F)F | C11H8ClF3O3
reactant | 2-amino-6-(t-butylamino)-3,5-difluoropyridine | 3.30 g | NC1=NC(=C(C=C1F)F)NC(C)(C)C | C9H13F2N3
reactant | potassium carbonate | 4.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 8 ml | CN(C=O)C | C3H7NO
solvent | chloroform | 15 ml | C(Cl)(Cl)Cl | CHCl3
product | ethyl 1-[6-(t-butylamino)-3,5-difluoropyridin-2-yl]-8-chloro-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylate | 4.67 g | C(C)(C)(C)NC1=C(C=C(C(=N1)N1C=C(C(C2=CC(=C(C(=C12)Cl)F)F)=O)C(=O)OCC)F)F | C21H18ClF4N3O3
